US04312990
(B) 5-[4-(Aminosulfonyl)phenyl]-4-oxo-2-pentenoic acid
A mixture of 37 g of p-acetylbenzenesulfonamide, 78.4 g of glyoxylic acid hydrate, 20 ml of 80% H2SO4 and 180 ml of dioxane is refluxed for 24 hours. An additional 10 g of glyoxylic acid hydrate is added and the mixture is refluxed for 24 hours. The reaction mixture is poured into 2 liters of water and extracted with ether. The organic layers are combined, dried, and evaporated to leave a solid which is crystallized from acetonitrile yielding 10.9 g of the title compound, melting point 180°-181° C.

reactant | p-acetylbenzenesulfonamide | 37 g | C(C)(=O)C1=CC=C(C=C1)S(=O)(=O)N | C8H9NO3S
reactant | glyoxylic acid hydrate | 78.4 g | O.C(C=O)(=O)O
reactant | H2SO4 | 20 ml | OS(=O)(=O)O | H2O4S
reactant | dioxane | 180 ml | O1CCOCC1 | C4H8O2
reactant | glyoxylic acid hydrate | 10 g | O.C(C=O)(=O)O
solvent | water | 2 liters | O | H2O
product | 5-[4-(Aminosulfonyl)phenyl]-4-oxo-2-pentenoic acid | NS(=O)(=O)C1=CC=C(C=C1)CC(C=CC(=O)O)=O | C11H11NO5S
